US04101661
B. 4-Acetylbenzenesulfonyl Chloride
A suspension of 100 g. of sodium 4-acetylbenzenesulfonate in 225 ml. of dimethylformamide is treated with 31 ml. of thionyl chloride and the mixture is stirred at room temperature for 5 minutes, then poured into 1 l. of ice water. The resulting precipitate of 4-acetylbenzenesulfonyl chloride is collected by filtration and washed with ice water. The still-damp product may be used as such without further purification. However, if purification is desired, the following procedure may be used: The product is dissolved in methylene chloride and the solution is dried and evaporated at reduced pressure. Th residual sulfonyl chloride is crystallized from benzene/hexane; m.p. 83°-85° C.

reactant | sodium 4-acetylbenzenesulfonate | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Acetylbenzenesulfonyl Chloride | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
